US07626039B2
3-(5-Chloro-2-phenylcarbamoyl-phenyl)-propionic acid: A mixture of palladium acetate (0.022 g, 0.1 mmol), 2-iodo-4-chlorobenzamide (0.954 g, 2.67 mmol), 3,3-diethoxyprop-1-ene (0.693 g, 5.32 mmol), tetrabutylammonium bromide (0.86 g, 2.67 mmol), and tributylamine (0.984 g, 5.32 mmol) in DMF (25 mL) was heated at 80° C. overnight. The reaction was quenched with 1N HCl (50 mL) and stirred at rt for 1 h. The mixture was extracted with EtOAc and the combined organic layers were washed with 1N HCl, dried (MgSO4), filtered, and evaporated to give an oil. This residue was purified by flash chromatography to give 3-(5-chloro-2-phenylcarbamoyl-phenyl)-propionic acid ethyl ester (0.287 g, 32%). LC/MS m/z 332.3 (M+H)+. This intermediate (0.278 g, 0.865 mmol) was stirred with LiOH (21 mg, 0.865 mmol) in THF (10 mL) and water (0.5 mL) for 2 d. The mixture was diluted with water and washed with EtOAc. The aqueous layer was acidified with 1N HCl and extracted with EtOAc. The combined organic layers were dried (MgSO4), filtered, evaporated, and purified by reverse phase HPLC to give 183A. LC/MS m/z 304.3 (M+H)+. 1HNMR (CDCl3) δ 7.68 (d, J=8.0 Hz, 2H), 7.48 (d, J=8.2 Hz, 1H), 7.41-7.25 (m, H), 7.15 (t, 1H), 4.00 (bs, 1H), 3.11 (t, 2H), 2.80 (tm, 2H).

reactant | 3-(5-Chloro-2-phenylcarbamoyl-phenyl)-propionic acid | ClC=1C=CC(=C(C1)CCC(=O)O)C(NC1=CC=CC=C1)=O | C16H14ClNO3
reactant | 2-iodo-4-chlorobenzamide | 2.67 mmol, 0.954 g | IC1=C(C(=O)N)C=CC(=C1)Cl | C7H5ClINO
reactant | 3,3-diethoxyprop-1-ene | 5.32 mmol, 0.693 g | C(C)OC(C=C)OCC | C7H14O2
reactant | tributylamine | 5.32 mmol, 0.984 g | C(CCC)N(CCCC)CCCC | C12H27N
catalyst | tetrabutylammonium bromide | 2.67 mmol, 0.86 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 25 mL | CN(C)C=O | C3H7NO
catalyst | palladium acetate | 0.1 mmol, 0.022 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-(5-chloro-2-phenylcarbamoyl-phenyl)-propionic acid ethyl ester | 0.287 g, 32% | C(C)OC(CCC1=C(C=CC(=C1)Cl)C(NC1=CC=CC=C1)=O)=O | C18H18ClNO3
